US07626030B2
6-Methoxybenzofuran-3-yl trifluoromethane sulfonate (500 mg, 1.69 mmol) was added to a stainless steel high-pressure reaction vessel then dissolved in N,N-dimethylformamide (6.5 mL). Carbon monoxide gas was bubbled through the solution for 10 minutes. 1,3-Bis(diphenylphosphino)propane (21 mg, 0.051 mmol), methanol (1.8 mL), triethylamine (342 mg, 3.38 mmol) and palladium acetate (11 mg, 0.051 mmol) were added to the reaction mixture, while continuing to bubble carbon monoxide gas through the mixture. The reaction vessel was sealed and charged with carbon monoxide (30 psi). The reaction mixture was heated at 80 C for 4.5 hours. The mixture was concentrated in vacuo. The remaining orange mixture was purified by silica gel chromatography (5% ethyl acetate/hexane) to afford methyl 6-methoxybenzofuran-3-carboxylate as a light yellow solid. MS (ESI, pos. ion) m/z: 207.1 (M+1).

reactant | 6-Methoxybenzofuran-3-yl trifluoromethane sulfonate | 1.69 mmol, 500 mg | FC(S(=O)(=O)OC1=COC2=C1C=CC(=C2)OC)(F)F | C10H7F3O5S
reactant | 1,3-Bis(diphenylphosphino)propane | 0.051 mmol, 21 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | methanol | 1.8 mL | CO | CH4O
reactant | triethylamine | 3.38 mmol, 342 mg | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 6.5 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.051 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 6-methoxybenzofuran-3-carboxylate | COC1=CC2=C(C(=CO2)C(=O)OC)C=C1 | C11H10O4
